US07674795B2
The procedure used in stage 4 of Example 216 is followed. In a 30 ml round-bottomed flask under an argon atmosphere, dissolve 667 mg of equimolecular mixture of 4-(5-fluoro-6-hydroxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, in a mixture of 3.5 ml of ethanol and 3.5 ml of water and 3.5 ml of acetic acid; at room temperature, add 500 mg of zinc in three stages. Between each addition, stir for approximately one hour to two hours. After purification by flash chromatography on silica gel (40-63 μm), eluting with a mixture of dichloromethane and ammonia as a 7N solution in methanol (9/1 then 85/15 by volume), in this way we obtain 456 mg of 4-(5-fluoro-6-hydroxy-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine, in the form of a beige powder, which is used as it is in the following stage, with the following characteristics:

reactant | 4-(5-fluoro-6-hydroxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C=C1O | C20H12FN3O2
reactant | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 3.5 ml | C(C)O | C2H6O
solvent | water | 3.5 ml | O | H2O
catalyst | zinc | 500 mg | [Zn] | Zn
product | 4-(5-fluoro-6-hydroxy-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine | 456 mg | FC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C=C1O | C20H14FN3O
